US08877759B2
Preparation 2. Synthesis of tert-butyl(4-[4-[5-[bis(tert-butoxycarbonyl)amino]-6-ethynyl-pyrazin-2-yl]-2-pyridyl]-4-cyano-piperidine-1-carboxylate)
tert-butyl 4-cyano-4-(4-iodo-2-pyridyl)piperidine-1-carboxylate (1.01 g, 2.444 mmol) was dissolved in dioxane (15 mL) and bis(pinacolato)diboron (934.0 mg, 3.678 mmol) followed by potassium acetate (721.9 mg, 7.356 mmol) were added. The reaction mixture was degassed with 5× vacuum/nitrogen cycles. [PdCl2(dppf)].dichloromethane (199.6 mg, 0.2444 mmol) was then added and the reaction heated to 90° C. for 15 hours. The reaction mixture was cooled to ambient temperature and tert-butyl N-[5-bromo-3-(2-trimethylsilylethynyl)pyrazin-2-yl]-N-tert-butoxycarbonyl-carbamate (1.150 g, 2.444 mmol) and a 2 M aqueous solution of sodium carbonate (3.666 mL of 2 M, 7.332 mmol) were added. The reaction mixture was degassed with 3× vacuum/nitrogen cycles then Pd(PPh3)4 (283.2 mg, 0.2451 mmol) was added. The reaction mixture was degassed with 5× vacuum/nitrogen cycles and then heated to 90° C. for 2 hours. The reaction mixture was cooled to ambient temperature and diluted with ethyl acetate/water. The aqueous layer was extracted with ethyl acetate (×1) and the combined organic extracts washed with brine (×2), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 120 g column), loaded in dichloromethane eluted with 0 to 50% ethyl acetate/petroleum ether. Product fractions were combined and concentrated in vacuo to give the sub-title product as a beige solid (749 mg, 51% Yield). 1H NMR (400.0 MHz, DMSO-d6) δ 1.33 (s, 18H), 1.38 (s, 9H), 2.07 (dt, 2H), 2.21 (d, 2H), 3.01 (br s, 2H), 4.10 (br d, 2H), 4.99 (s, 1H), 8.11 (dd, 1H), 8.25 (s, 1H), 8.78 (d, 1H) and 9.40 (s, 1H) ppm; LC/MS m/z 605.3 [M+H]+.

reactant | tert-butyl 4-cyano-4-(4-iodo-2-pyridyl)piperidine-1-carboxylate | 2.444 mmol, 1.01 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC(=C1)I | C16H20IN3O2
reactant | bis(pinacolato)diboron | 3.678 mmol, 934.0 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.356 mmol, 721.9 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.2444 mmol, 199.6 mg | ClCCl | CH2Cl2
reactant | tert-butyl N-[5-bromo-3-(2-trimethylsilylethynyl)pyrazin-2-yl]-N-tert-butoxycarbonyl-carbamate | 2.444 mmol, 1.150 g | BrC=1N=C(C(=NC1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C#C[Si](C)(C)C | C19H28BrN3O4Si
reactant | sodium carbonate | 7.332 mmol, 2 M, 3.666 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.2451 mmol, 283.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl(4-[4-[5-[bis(tert-butoxycarbonyl)amino]-6-ethynyl-pyrazin-2-yl]-2-pyridyl]-4-cyano-piperidine-1-carboxylate) | 749 mg, 51% Yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)C1=NC=CC(=C1)C1=NC(=C(N=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C#C | C32H40N6O6
